US05965559
Using an analogous procedure to that described in Example 1, 1-(4-pyridyl)piperidine-4-carbonyl chloride was reacted with ethyl 1-(2-naphthylsulphonyl)piperazine-3-carboxylate to give 2-ethoxycarbonyl-4-(2-naphthylsulphonyl)-1-[1-(4-pyridyl)piperidin-4-ylcarbonyl]piperazine as a glassy solid in 9% yield;

reactant | 1-(4-pyridyl)piperidine-4-carbonyl chloride | N1=CC=C(C=C1)N1CCC(CC1)C(=O)Cl | C11H13ClN2O
reactant | ethyl 1-(2-naphthylsulphonyl)piperazine-3-carboxylate | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1CC(NCC1)C(=O)OCC | C17H20N2O4S
product | 2-ethoxycarbonyl-4-(2-naphthylsulphonyl)-1-[1-(4-pyridyl)piperidin-4-ylcarbonyl]piperazine | 9% yield | C(C)OC(=O)C1N(CCN(C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)C(=O)C1CCN(CC1)C1=CC=NC=C1 | C28H32N4O5S
